US08466186B2
(h) 5-Chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline
A mixture of 4-chloro-N-methyl-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline (1.07 g, 3.2 mmol), THF (20 mL), MeOH (30 mL) and Pt/C (100 mg) was stirred for 6 h at rt under a hydrogen atmosphere (3 bar). The catalyst was removed by filtration and the mixture was concentrated to give the sub-title compound.

reactant | 4-chloro-N-methyl-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline | 3.2 mmol, 1.07 g | ClC1=CC(=C(NC)C=C1N1CCC(CC1)C(F)(F)F)[N+](=O)[O-] | C13H15ClF3N3O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pt/C | 100 mg | [Pt] | Pt
solvent | MeOH | 30 mL | CO | CH4O
product | 5-Chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
